US07592373B2
4.28.a. N′-(2-chloro-4-nitrophenyl)-N,N-diethylethane-1,2-diamine
Prepared analogously to Example 4.25.a. from N1,N1-diethylethane-1,2-diamine and 3-chloro-4-fluoronitrobenzene. Yield: 9.2 g (99.1% of theory); C12H18ClN3O2 (M=271.74); calc.: molecular ion peak (M+H)+: 272/274; found: molecular ion peak (M+H)+: 272/274; Rf value: 0.72 (Alox, dichloromethane/methanol (49:1)).

reactant | N1,N1-diethylethane-1,2-diamine | C(C)N(CCN)CC | C6H16N2
reactant | 3-chloro-4-fluoronitrobenzene | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
solvent | dichloromethane methanol | ClCCl.CO
product | N′-(2-chloro-4-nitrophenyl)-N,N-diethylethane-1,2-diamine | ClC1=C(C=CC(=C1)[N+](=O)[O-])NCCN(CC)CC | C12H18ClN3O2
